* Fine symmetric comparator staircase
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.temp 25
.include qualification/cmp-cellpex-steady-nominal-20260921-a/cmp.spice
Vdd vdd 0 1.2
Vcm cm 0 .75
Vod od 0 dc 0
Ep inp0 0 value={v(cm)+v(od)/2}
En inn0 0 value={v(cm)-v(od)/2}
Rp inp0 inp 1000
Rn inn0 inn 1000
Cp inp 0 1p
Cn inn 0 1p
Vclk clk 0 pulse(0 1.2 20n .2n .2n 50n 100n)
X1 inp inn clk q qb vdd 0 g1_cmp
Cq q 0 10f
Cqb qb 0 10f
.save v(q) v(qb) v(inp) v(inn) v(clk)
.option reltol=1e-5 vntol=1e-7 abstol=1e-14 method=trap
.control
set num_threads=1
set numdgt=15
setseed 61001
reset
set temp=25.0
alter Vcm dc=0.75
set b_lo=-0.002
set b_hi=0.002
set b_mixed=0
set b_endpoints=1
set b_trial=$b_lo
alter Vod dc=$b_trial
tran .2n .52u 0 0.2n
meas tran q2 find v(q) at=.24u
meas tran q3 find v(q) at=.34u
meas tran q4 find v(q) at=.44u
let b_state=(q2>.6)+(q3>.6)+(q4>.6)
echo BROW seed61001_t0_cm0.75 0 $b_trial $&q2 $&q3 $&q4
set wr_singlescale
set wr_vecnames
wrdata qualification/cmp-cellpex-steady-nominal-20260921-a/seed61001_t0_cm0.75_p0.dat v(q) v(qb) v(inp) v(inn) v(clk)
if b_state > .5
set b_endpoints=0
end
set b_trial=$b_hi
alter Vod dc=$b_trial
tran .2n .52u 0 0.2n
meas tran q2 find v(q) at=.24u
meas tran q3 find v(q) at=.34u
meas tran q4 find v(q) at=.44u
let b_state=(q2>.6)+(q3>.6)+(q4>.6)
echo BROW seed61001_t0_cm0.75 1 $b_trial $&q2 $&q3 $&q4
set wr_singlescale
set wr_vecnames
wrdata qualification/cmp-cellpex-steady-nominal-20260921-a/seed61001_t0_cm0.75_p1.dat v(q) v(qb) v(inp) v(inn) v(clk)
if b_state < 2.5
set b_endpoints=0
end
if $b_mixed < .5
let b_mid=($b_lo+$b_hi)/2
set b_trial=$&b_mid
alter Vod dc=$b_trial
tran .2n .52u 0 0.2n
meas tran q2 find v(q) at=.24u
meas tran q3 find v(q) at=.34u
meas tran q4 find v(q) at=.44u
let b_state=(q2>.6)+(q3>.6)+(q4>.6)
echo BROW seed61001_t0_cm0.75 2 $b_trial $&q2 $&q3 $&q4
set wr_singlescale
set wr_vecnames
wrdata qualification/cmp-cellpex-steady-nominal-20260921-a/seed61001_t0_cm0.75_p2.dat v(q) v(qb) v(inp) v(inn) v(clk)
if b_state > 2.5
set b_hi=$b_trial
else
if b_state < .5
set b_lo=$b_trial
else
set b_mixed=1
end
end
end
if $b_mixed < .5
let b_mid=($b_lo+$b_hi)/2
set b_trial=$&b_mid
alter Vod dc=$b_trial
tran .2n .52u 0 0.2n
meas tran q2 find v(q) at=.24u
meas tran q3 find v(q) at=.34u
meas tran q4 find v(q) at=.44u
let b_state=(q2>.6)+(q3>.6)+(q4>.6)
echo BROW seed61001_t0_cm0.75 3 $b_trial $&q2 $&q3 $&q4
set wr_singlescale
set wr_vecnames
wrdata qualification/cmp-cellpex-steady-nominal-20260921-a/seed61001_t0_cm0.75_p3.dat v(q) v(qb) v(inp) v(inn) v(clk)
if b_state > 2.5
set b_hi=$b_trial
else
if b_state < .5
set b_lo=$b_trial
else
set b_mixed=1
end
end
end
if $b_mixed < .5
let b_mid=($b_lo+$b_hi)/2
set b_trial=$&b_mid
alter Vod dc=$b_trial
tran .2n .52u 0 0.2n
meas tran q2 find v(q) at=.24u
meas tran q3 find v(q) at=.34u
meas tran q4 find v(q) at=.44u
let b_state=(q2>.6)+(q3>.6)+(q4>.6)
echo BROW seed61001_t0_cm0.75 4 $b_trial $&q2 $&q3 $&q4
set wr_singlescale
set wr_vecnames
wrdata qualification/cmp-cellpex-steady-nominal-20260921-a/seed61001_t0_cm0.75_p4.dat v(q) v(qb) v(inp) v(inn) v(clk)
if b_state > 2.5
set b_hi=$b_trial
else
if b_state < .5
set b_lo=$b_trial
else
set b_mixed=1
end
end
end
if $b_mixed < .5
let b_mid=($b_lo+$b_hi)/2
set b_trial=$&b_mid
alter Vod dc=$b_trial
tran .2n .52u 0 0.2n
meas tran q2 find v(q) at=.24u
meas tran q3 find v(q) at=.34u
meas tran q4 find v(q) at=.44u
let b_state=(q2>.6)+(q3>.6)+(q4>.6)
echo BROW seed61001_t0_cm0.75 5 $b_trial $&q2 $&q3 $&q4
set wr_singlescale
set wr_vecnames
wrdata qualification/cmp-cellpex-steady-nominal-20260921-a/seed61001_t0_cm0.75_p5.dat v(q) v(qb) v(inp) v(inn) v(clk)
if b_state > 2.5
set b_hi=$b_trial
else
if b_state < .5
set b_lo=$b_trial
else
set b_mixed=1
end
end
end
if $b_mixed < .5
let b_mid=($b_lo+$b_hi)/2
set b_trial=$&b_mid
alter Vod dc=$b_trial
tran .2n .52u 0 0.2n
meas tran q2 find v(q) at=.24u
meas tran q3 find v(q) at=.34u
meas tran q4 find v(q) at=.44u
let b_state=(q2>.6)+(q3>.6)+(q4>.6)
echo BROW seed61001_t0_cm0.75 6 $b_trial $&q2 $&q3 $&q4
set wr_singlescale
set wr_vecnames
wrdata qualification/cmp-cellpex-steady-nominal-20260921-a/seed61001_t0_cm0.75_p6.dat v(q) v(qb) v(inp) v(inn) v(clk)
if b_state > 2.5
set b_hi=$b_trial
else
if b_state < .5
set b_lo=$b_trial
else
set b_mixed=1
end
end
end
if $b_mixed < .5
let b_mid=($b_lo+$b_hi)/2
set b_trial=$&b_mid
alter Vod dc=$b_trial
tran .2n .52u 0 0.2n
meas tran q2 find v(q) at=.24u
meas tran q3 find v(q) at=.34u
meas tran q4 find v(q) at=.44u
let b_state=(q2>.6)+(q3>.6)+(q4>.6)
echo BROW seed61001_t0_cm0.75 7 $b_trial $&q2 $&q3 $&q4
set wr_singlescale
set wr_vecnames
wrdata qualification/cmp-cellpex-steady-nominal-20260921-a/seed61001_t0_cm0.75_p7.dat v(q) v(qb) v(inp) v(inn) v(clk)
if b_state > 2.5
set b_hi=$b_trial
else
if b_state < .5
set b_lo=$b_trial
else
set b_mixed=1
end
end
end
if $b_mixed < .5
let b_mid=($b_lo+$b_hi)/2
set b_trial=$&b_mid
alter Vod dc=$b_trial
tran .2n .52u 0 0.2n
meas tran q2 find v(q) at=.24u
meas tran q3 find v(q) at=.34u
meas tran q4 find v(q) at=.44u
let b_state=(q2>.6)+(q3>.6)+(q4>.6)
echo BROW seed61001_t0_cm0.75 8 $b_trial $&q2 $&q3 $&q4
set wr_singlescale
set wr_vecnames
wrdata qualification/cmp-cellpex-steady-nominal-20260921-a/seed61001_t0_cm0.75_p8.dat v(q) v(qb) v(inp) v(inn) v(clk)
if b_state > 2.5
set b_hi=$b_trial
else
if b_state < .5
set b_lo=$b_trial
else
set b_mixed=1
end
end
end
if $b_mixed < .5
let b_mid=($b_lo+$b_hi)/2
set b_trial=$&b_mid
alter Vod dc=$b_trial
tran .2n .52u 0 0.2n
meas tran q2 find v(q) at=.24u
meas tran q3 find v(q) at=.34u
meas tran q4 find v(q) at=.44u
let b_state=(q2>.6)+(q3>.6)+(q4>.6)
echo BROW seed61001_t0_cm0.75 9 $b_trial $&q2 $&q3 $&q4
set wr_singlescale
set wr_vecnames
wrdata qualification/cmp-cellpex-steady-nominal-20260921-a/seed61001_t0_cm0.75_p9.dat v(q) v(qb) v(inp) v(inn) v(clk)
if b_state > 2.5
set b_hi=$b_trial
else
if b_state < .5
set b_lo=$b_trial
else
set b_mixed=1
end
end
end
if $b_mixed < .5
let b_mid=($b_lo+$b_hi)/2
set b_trial=$&b_mid
alter Vod dc=$b_trial
tran .2n .52u 0 0.2n
meas tran q2 find v(q) at=.24u
meas tran q3 find v(q) at=.34u
meas tran q4 find v(q) at=.44u
let b_state=(q2>.6)+(q3>.6)+(q4>.6)
echo BROW seed61001_t0_cm0.75 10 $b_trial $&q2 $&q3 $&q4
set wr_singlescale
set wr_vecnames
wrdata qualification/cmp-cellpex-steady-nominal-20260921-a/seed61001_t0_cm0.75_p10.dat v(q) v(qb) v(inp) v(inn) v(clk)
if b_state > 2.5
set b_hi=$b_trial
else
if b_state < .5
set b_lo=$b_trial
else
set b_mixed=1
end
end
end
echo BRACKET seed61001_t0_cm0.75 $b_lo $b_hi $b_mixed $b_endpoints
echo FINGERPRINT seed61001_t0_cm0.75
print @n.x1.xm6.nsg13_lv_nmos[w]
print @n.x1.xm6.nsg13_lv_nmos[l]
print @n.x1.xm6.nsg13_lv_nmos[delvto]
print @n.x1.xm6.nsg13_lv_nmos[factuo]
print @n.x1.xm7.nsg13_lv_nmos[w]
print @n.x1.xm7.nsg13_lv_nmos[l]
print @n.x1.xm7.nsg13_lv_nmos[delvto]
print @n.x1.xm7.nsg13_lv_nmos[factuo]
print @n.x1.xm8.nsg13_lv_nmos[w]
print @n.x1.xm8.nsg13_lv_nmos[l]
print @n.x1.xm8.nsg13_lv_nmos[delvto]
print @n.x1.xm8.nsg13_lv_nmos[factuo]
print @n.x1.xm9.nsg13_lv_nmos[w]
print @n.x1.xm9.nsg13_lv_nmos[l]
print @n.x1.xm9.nsg13_lv_nmos[delvto]
print @n.x1.xm9.nsg13_lv_nmos[factuo]
print @n.x1.xm12.nsg13_lv_nmos[w]
print @n.x1.xm12.nsg13_lv_nmos[l]
print @n.x1.xm12.nsg13_lv_nmos[delvto]
print @n.x1.xm12.nsg13_lv_nmos[factuo]
print @n.x1.xm13.nsg13_lv_nmos[w]
print @n.x1.xm13.nsg13_lv_nmos[l]
print @n.x1.xm13.nsg13_lv_nmos[delvto]
print @n.x1.xm13.nsg13_lv_nmos[factuo]
print @n.x1.xm14.nsg13_lv_nmos[w]
print @n.x1.xm14.nsg13_lv_nmos[l]
print @n.x1.xm14.nsg13_lv_nmos[delvto]
print @n.x1.xm14.nsg13_lv_nmos[factuo]
print @n.x1.xm15.nsg13_lv_nmos[w]
print @n.x1.xm15.nsg13_lv_nmos[l]
print @n.x1.xm15.nsg13_lv_nmos[delvto]
print @n.x1.xm15.nsg13_lv_nmos[factuo]
echo QUALIFICATION_END
quit 0
.endc
.end
